US08309546B2
Step 6: 5-[8-(4,7-Diazaspiro[2.5]oct-7-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine
Potassium carbonate (1.19 g, 8.58 mmol) was added to a methanol solution (10 ml) of 4-(trifluoroacetyl)-4,7-diazaspiro[2.5]octane hydrochloride (1.0 g, 4.09 mmol) at room temperature and the resulting mixture was stirred at 50° C. for 16 hours. The resulting mixture was left standing to cool, then potassium carbonate was removed by filtration, and the filtrate was concentrated to give crude 4,7-diazaspiro[2.5]octane. This compound was added to an N-methyl-2-pyrrolidone suspension of 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine (277.4 mg, 0.67 mmol) and dissolved at 120° C. followed by the addition of diisopropylethylamine (1.16 ml, 6.69 mmol) and the resulting mixture was stirred at 100° C. for 4 days. The resulting mixture was left standing to cool, then poured into methylene chloride-methanol (10:1), and washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, the filtrate was concentrated under reduced pressure, and the resulting residue was purified by medium pressure silica gel column chromatography (methylene chloride:methanol=24:1 to 12:1) to give the title compound (83.3 mg, 26%) as a brown amorphous solid.

reactant | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | 5-[8-chloro-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 0.67 mmol, 277.4 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(F)(F)F | C15H14ClF3N8O
reactant | diisopropylethylamine | 6.69 mmol, 1.16 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 5-[8-(4,7-Diazaspiro[2.5]oct-7-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine | 83.3 mg, 26% | C1CC12NCCN(C2)C=2N(C1=NC(=NC(=C1N2)N2CCOCC2)C=2C=NC(=NC2)N)CC(F)(F)F | C21H25F3N10O
